US07157447B2
Dimethyl-carbamic acid 2-{[(3-benzyloxy-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydro-pyrimido[2,1-c][1,4]oxazine-2-carbonyl)-amino]-methyl}-5-fluoro-phenyl ester.
The title compound can be prepared from intermediate 27, 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid and intermediate 133, 2-(aminomethyl)-5-fluorophenyl dimethylcarbamate. 1H NMR (CDCl3, 500 MHz) δ ppm: 1.58 (6H, s, gem-Me), 2.92, 3.05 (2s, NMe), 3.96 (2H, m, NCH2), 4.00 (2H, m, OCH2), 4.48 (2H, d, J=5.5 Hz, NCH2), 5.26 (2H, s, OCH2), 6.84 (1H, dd, J=2.5 Hz, 9 Hz, Ar—H), 6.87 (1H, dt, J=2.5 Hz, 8 Hz, Ar—H), 7.25–7.33 (4H, m, Ar—Hs), 7.53 (2H, d, J=˜7 Hz, Ar—Hs), 7.78 (1H, brt, J=5 Hz, NH); 13C NMR (CDCl3, 125.77 Hz) δ ppm: 27.68, 36.61, 36.89, 37.97, 42.97, 58.06, 74.73, 76.23, 110.58, 110.77, 113.06, 113.23, 126.55, 126.58, 128.31, 128.45, 128.91, 131.23, 131.31, 136.76, 140.70, 142.00, 150.60, 150.69, 154.50, 156.30, 159.79, 161.40, 163.37, 162.43. HRMS (ESI) calcd for C27H30N4O6F (M+H) 525.2149. found 525.2163.

reactant | 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)O | C17H18N2O5
reactant | 2-(aminomethyl)-5-fluorophenyl dimethylcarbamate | CN(C(OC1=C(C=CC(=C1)F)CN)=O)C | C10H13FN2O2
product | Dimethyl-carbamic acid 2-{[(3-benzyloxy-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydro-pyrimido[2,1-c][1,4]oxazine-2-carbonyl)-amino]-methyl}-5-fluoro-phenyl ester | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)NCC1=C(C=C(C=C1)F)OC(N(C)C)=O | C27H29FN4O6
